US07678818B2
Preparation of 4-pentafluoroethyl-benzonitrile
A mixture of 4-iodobenzonitrile (10.0 g, 43.7 mmol), sodium pentafluoroproprionate (15.4 g, 82.9 mmol), and copper(I) iodide (16.6 g, 87.3 mmol), DMF (160 mL), and toluene (60 mL) was heated at 160° C. for 16 h, allowing most of the toluene to distil off. After cooling, ethyl acetate (200 mL) was added, and the mixture was filtered through diatomaceous earth, and the filtrate was partitioned between ethyl acetate/heptane and water. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) afforded the title compound (5.05 g 52%). Yellow oil, MS (EI) 221.1 (M+).

reactant | 4-iodobenzonitrile | 43.7 mmol, 10.0 g | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | sodium pentafluoroproprionate | 82.9 mmol, 15.4 g | FC(C(C(=O)[O-])(F)F)(F)F.[Na+]
reactant | DMF | 160 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 87.3 mmol, 16.6 g | [Cu]I
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 4-pentafluoroethyl-benzonitrile | 5.05 g, 52% | FC(C(F)(F)F)(C1=CC=C(C#N)C=C1)F | C9H4F5N
